US06008229
To a mixture of 3-aminophenylboronic acid hemisulfate (472 mg) in toluene (11 ml) were added tetrakis(triphenylphosphine)palladium(O) (64 mg), 2M sodium carbonate solution (5.5 ml), methanol (2.8 ml) and 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-bromobenzene (1.0 g) at ambient temperature, and the mixture was heated at 80° C. After 5 hours, the cooled reaction mixture was extracted with chloroform and the organic layer was washed with aqueous sodium bicarbonate solution and brine. The organic layer was dried over magnesium sulfate and evaporated in vacuo. The residue was purified by flash silica gel chromatography eluted with n-hexane-ethyl acetate to give 3-(3-aminophenyl)-1-tert-butyldiphenylsilyloxymetyl-2,6-dimethylbenzene (350 mg) as pale yellow oil.

reactant | 3-aminophenylboronic acid hemisulfate | 472 mg | S(=O)(=O)(O)O.NC=1C=C(C=CC1)B(O)O.NC=1C=C(C=CC1)B(O)O
reactant | sodium carbonate | 2M, 5.5 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol | 2.8 ml | CO | CH4O
reactant | 1-tert-butyldiphenylsilyloxymethyl-2,6-dimethyl-3-bromobenzene | 1.0 g | [Si](C1=CC=CC=C1)(C1=CC=CC=C1)(C(C)(C)C)OCC1=C(C(=CC=C1C)Br)C | C25H29BrOSi
solvent | toluene | 11 ml | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(O) | 64 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[Pd]
product | 3-(3-aminophenyl)-1-tert-butyldiphenylsilyloxymetyl-2,6-dimethylbenzene | 350 mg | NC=1C=C(C=CC1)C=1C(=C(C(=CC1)C)CO[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)C | C31H35NOSi
